US05945431
compound #5 N-(2-bromobenzyl)-2-[1,6]naphthyridine-carboxamide
To a stirring solution of 2-bromobenzylamine hydrochloride (80.7 mg, 95%, 0.345 mmol) in anhy. DMF (5 ml) was added triethylamine (51.8 ul. 0.345 mmol). After 5 min, 2-[1,6]naphthyridinecarboxylic acid (40 mg, 0.229 mmol), 1-hydroxybenzotriazole hydrate (34.2 mg, 0.253 mmol) and 1-(3-dimethylamino-propyl)-3-ethylcarbodiimide hydrochloride (48.5 mg, 0.253 mmol) was sequentially added. The resulting mixture was allowed to stir at room temperature for 4 h and it was found to be clear. The solvent was removed under vacuum and the resulting residue was redissolved in CH2Cl2 (100 ml). The organic layer was washed with aq. NaHCO3, dried over anhy. MgSO4, and concentrated to give the crude mixture Chromatography of the crude (Hex:EtOAc=1:1, pure EtOAc) afforded desired product as white solid (70 mg, 89% 129-130° C.

reactant | 2-bromobenzylamine hydrochloride | 0.345 mmol, 80.7 mg | Cl.BrC1=C(CN)C=CC=C1
reactant | triethylamine | 0.345 mmol, 51.8 ul | C(C)N(CC)CC | C6H15N
reactant | 2-[1,6]naphthyridinecarboxylic acid | 0.229 mmol, 40 mg | N1=C(C=CC2=CN=CC=C12)C(=O)O | C9H6N2O2
reactant | 1-hydroxybenzotriazole hydrate | 0.253 mmol, 34.2 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylamino-propyl)-3-ethylcarbodiimide hydrochloride | 0.253 mmol, 48.5 mg | Cl.CN(CCCN=C=NCC)C
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | N-(2-bromobenzyl)-2-[1,6]naphthyridine-carboxamide | BrC1=C(CNC(=O)C2=NC3=CC=NC=C3C=C2)C=CC=C1 | C16H12BrN3O
